US07632829B2
4-[2-(4-Acetyl-piperazin-1-yl)-ethyl]-1-[(E)-3-(3-chloro-phenyl)-acryloyl]-[1,4]diazepan-5-one
In analogy to the procedure described in intermediate 4A, 1-[(E)-3-(3-chloro-phenyl)-acryloyl]-[1,4]diazepan-5-one (intermediate 3A]) and 1-[4-(2-chloro-ethyl)-piperazin-1-yl]-ethanone gave the title compound as off-white foam. MS: 433.2 (MH+, Cl).

reactant | 1-[(E)-3-(3-chloro-phenyl)-acryloyl]-[1,4]diazepan-5-one | ClC=1C=C(C=CC1)/C=C/C(=O)N1CCNC(CC1)=O | C14H15ClN2O2
reactant | 1-[4-(2-chloro-ethyl)-piperazin-1-yl]-ethanone | ClCCN1CCN(CC1)C(C)=O | C8H15ClN2O
product | 4-[2-(4-Acetyl-piperazin-1-yl)-ethyl]-1-[(E)-3-(3-chloro-phenyl)-acryloyl]-[1,4]diazepan-5-one | C(C)(=O)N1CCN(CC1)CCN1CCN(CCC1=O)C(\C=C\C1=CC(=CC=C1)Cl)=O | C22H29ClN4O3
